US05723497
Preparation of N-(2-hydroxypropyl)-N,N-dimethyl-N-[3-(12-hydroxyoctadecyl)-2-hydroxypropyl]ammonium bromide (IIb-4):
1-[N-Methyl-N-(2-hydroxyethyl)amino]-3-(12-hydroxyoctadecyl)-2-propanol was first prepared from 12-hydroxyoctadecyl glycidyl ether and N-methylethanolamine in the same manner as in the preparation of N-(3-methoxy-2-hydroxy-propyl)-N-methyl-2-hydroxyethylamine in Preparation Example 24. A 200-ml autoclave was charged with 6.3 g (15 mmol) of the thus-prepared compound, 100 ml of diethyl ether and 14.2 g of methyl bromide, and the resultant mixture was stirred at 48° C. for 8 hours. The reaction mixture was then concentrated under reduced pressure, and the resultant residue was dissolved in methanol. Diethyl ether was added to the solution to form crystals. The crystals were collected by filtration, thereby obtaining 6.9 g (yield: 90%) of the title compound (IIb-4).

reactant | 1-[N-Methyl-N-(2-hydroxyethyl)amino]-3-(12-hydroxyoctadecyl)-2-propanol | CN(CCO)CC(CCCCCCCCCCCCC(CCCCCC)O)O | C24H51NO3
reactant | 12-hydroxyoctadecyl glycidyl ether | C(C1CO1)OCCCCCCCCCCCC(CCCCCC)O | C21H42O3
reactant | N-methylethanolamine | CNCCO | C3H9NO
reactant | N-(3-methoxy-2-hydroxy-propyl)-N-methyl-2-hydroxyethylamine | COCC(CN(C)CCO)O | C7H17NO3
reactant | methyl bromide | 14.2 g | CBr | CH3Br
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | N-(2-hydroxypropyl)-N,N-dimethyl-N-[3-(12-hydroxyoctadecyl)-2-hydroxypropyl]ammonium bromide | 6.9 g, yield: 90% | [Br-].OC(C[N+](CC(CCCCCCCCCCCCC(CCCCCC)O)O)(C)C)C | InChI=1S/C26H56NO3.BrH/c1-5-6-7-16-19-25(29)20-17-14-12-10-8-9-11-13-15-18-21-26(30)23-27(3,4)22-24(2)28;/h24-26,28-30H,5-23H2,1-4H3;1H/q+1;/p-1
